US04968340
Preparation of 3,3-dimethyl-2-(4,6-dimethoxy-S-triazin-2-yl)oxybutyric acid (Compound No. 336)
4.5 g of benzyl 3,3-dimethyl-2-(4,6-dimethoxy-S-triazin-2-yl)oxybutyrate and 0.5 g (10%) of palladium carbon wetted with 2 ml of acetic acid were added to 100 ml of ethanol. 257 ml of hydrogen was added thereto at room temperature under stirring. The reaction solution was subjected to filtration, and the filtrate was extracted twice with 200 ml of ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to obtain 3.1 g of the desired product.

reactant | benzyl 3,3-dimethyl-2-(4,6-dimethoxy-S-triazin-2-yl)oxybutyrate | 4.5 g | CC(C(C(=O)OCC1=CC=CC=C1)OC1=NC(=NC(=N1)OC)OC)(C)C | C18H23N3O5
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
reactant | hydrogen | 257 ml | [H][H] | H2
catalyst | palladium carbon | 0.5 g | [C].[Pd]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3,3-dimethyl-2-(4,6-dimethoxy-S-triazin-2-yl)oxybutyric acid | 3.1 g | CC(C(C(=O)O)OC1=NC(=NC(=N1)OC)OC)(C)C | C11H17N3O5
